US06900200B2
Step A. 2,5-Dimethoxy-2′-trifluoromethyl-[1,1′-biphenyl]-4-carboxylic acid
A suspension of 4-bromo-2,5-dimethoxybenzoic acid [prepared in the manner of Bortnik et al., Zh. Org. Khim. 8, 340 (1972)] (2.43 g, 9 mmol), 2-trifluoromethyl phenyl boronic acid (5.3 g, 28 mmol), and potassium carbonate (6.21 g, 60 mmol) in dioxane (40 mL) was sparged with nitrogen and treated with tetrakis(triphenylphosphine)palladium(0) (0.328 g, 0.2 mmol). The mixture was heated to reflux for 48 hours, cooled, acidified with 1 N hydrochloric acid and extracted with ethyl acetate The extracts were dried over anhydrous magnesium sulfate, filtered and stripped to a solid which was used as such in the next step

reactant | 4-bromo-2,5-dimethoxybenzoic acid | BrC1=CC(=C(C(=O)O)C=C1OC)OC | C9H9BrO4
reactant | 2-trifluoromethyl phenyl boronic acid | 28 mmol, 5.3 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 60 mmol, 6.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 0.328 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,5-Dimethoxy-2′-trifluoromethyl-[1,1′-biphenyl]-4-carboxylic acid | COC1=C(C=C(C(=C1)C(=O)O)OC)C1=C(C=CC=C1)C(F)(F)F | C16H13F3O4
